US05167949
a) 4-Amino-2-(benzylthiomethyl)pteridine
A suspension of 2.3 g (0.019 mole) of 3-amino-2-pyrazinecarbonitrile and 5.2 g (0.029 mole) of 2-(benzylthio)acetamidine [prepared according to J. M. McManus, J. Heterocycl. Chem. 1968, 5, 137] in 150 ml of absolute ethanol is refluxed for 2 hours. After cooling, the solution obtained is concentrated to dryness under reduced pressure. The residue is washed with isopropyl ether and dried under reduced pressure. An amorphous solid is obtained, and is used in the next step without further purification. Yld: 5.4 g (quantitative).

reactant | 3-amino-2-pyrazinecarbonitrile | 0.019 mole, 2.3 g | NC=1C(=NC=CN1)C#N | C5H4N4
reactant | 2-(benzylthio)acetamidine | 0.029 mole, 5.2 g | C(C1=CC=CC=C1)SCC(=N)N | C9H12N2S
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 4-Amino-2-(benzylthiomethyl)pteridine | NC1=NC(=NC2=NC=CN=C12)CSCC1=CC=CC=C1 | C14H13N5S
